US04806685
Preparation of 1-[4-(2,3-epoxypropoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-chlorophenyl)-propane
0.8 g (20 mmoles) of sodium hydroxide and 14.8 g (160 mmoles) of 1,2-epoxy-3-chloropropane are added to a solution of 6.03 g (16 mmoles) of 1-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-propane in 60 ml of methanol. The mixture is boiled for 2 hours and then processed as described in Example 25. The product is crystallized from methanol. 4.44 g (64%) of the aimed compound are obtained; m.p.: 141°-144° C.

reactant | sodium hydroxide | 20 mmoles, 0.8 g | [OH-].[Na+]
reactant | 1,2-epoxy-3-chloropropane | 160 mmoles, 14.8 g | O1CC1CCl | C3H5ClO
reactant | 1-phenyl-3,3,3-trifluoro-1-(4-hydroxyphenyl)-2-(4-chlorophenyl)-propane | 16 mmoles, 6.03 g | C1(=CC=CC=C1)C(C(C(F)(F)F)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)O | C21H16ClF3O
solvent | methanol | 60 ml | CO | CH4O
product | 1-[4-(2,3-epoxypropoxy)-phenyl]-1-phenyl-3,3,3-trifluoro-2-(4-chlorophenyl)-propane | 4.44 g, 64% | O1C(COC2=CC=C(C=C2)C(C(C(F)(F)F)C2=CC=C(C=C2)Cl)C2=CC=CC=C2)C1 | C24H20ClF3O2
